US07384970B2
(S,S)-{2-Cyclohexyl-1-[1-methyl-2-(4-trifluoromethoxy-phenylamino)-ethylcarbamoyl]-ethyl}-carbamic acid benzyl ester:
(S)—N-(4-trifluoromethoxy-phenyl)-propane-1,2-diamine (76.7 mg, 0.328 mmol), (S)-2-benzyloxycarbonylamino-3-cyclohexyl-propionic acid (100 mg, 0.328 mmol) and HATU (125 mg, 0.328 mmol) were added to a round bottom flask with 20 mL of dry DCM. DIPEA (127 mg, 0.982 mmol) was added dropwise over three minutes with vigorous stirring. The resulting slurry was stirred for 1.5 hours. The solution was then washed with sodium bicarbonate, the organic layer was separated and partially concentrated and the concentrate was purified by flash chromatography. Yield 138 mg, 81%.

reactant | (S)—N-(4-trifluoromethoxy-phenyl)-propane-1,2-diamine | 0.328 mmol, 76.7 mg | FC(OC1=CC=C(C=C1)NC[C@H](C)N)(F)F | C10H13F3N2O
reactant | (S)-2-benzyloxycarbonylamino-3-cyclohexyl-propionic acid | 0.328 mmol, 100 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC1CCCCC1 | C17H23NO4
reactant | HATU | 0.328 mmol, 125 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.982 mmol, 127 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (S,S)-{2-Cyclohexyl-1-[1-methyl-2-(4-trifluoromethoxy-phenylamino)-ethylcarbamoyl]-ethyl}-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N[C@@H](CC1CCCCC1)C(N[C@H](CNC1=CC=C(C=C1)OC(F)(F)F)C)=O)=O | C27H34F3N3O4
